US08058283B2
2-Bromochlorobenzene (54.1 ml, 0.46 mol) and trimethylsilylacetylene (72 ml, 0.51 mol) were dissolved in triethylamine (250 ml). Triphenylphosphine (0.4 g, 1.5 mmol), copper (I) iodide (0.3 g, 1.6 mmol) and bistriphenyphosphinepalladium (II) dichloride (0.5 g, 0.67 mmol) were added and the mixture was heated under reflux for 18 h. The reaction mixture was cooled to ambient temperature and carefully added to 10% hydrochloric acid (480 ml). The product was extracted into hexane (3×200 ml), the extracts were washed with 10% hydrochloric acid (200 ml) and water (2×200 ml) then dried (MgSO4) and evaporated in vacuo to give (2-chlorophenylethynyl)-trimethylsilane (95.4 g) as an orange oil, which was used without further purification.

reactant | 2-Bromochlorobenzene | 0.46 mol, 54.1 ml | BrC1=C(C=CC=C1)Cl | C6H4BrCl
reactant | trimethylsilylacetylene | 0.51 mol, 72 ml | C[Si](C)(C)C#C | C5H10Si
reactant | hydrochloric acid | 480 ml | Cl | ClH
solvent | triethylamine | 250 ml | C(C)N(CC)CC | C6H15N
catalyst | copper (I) iodide | 1.6 mmol, 0.3 g | [Cu]I
catalyst | Triphenylphosphine | 1.5 mmol, 0.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | (2-chlorophenylethynyl)-trimethylsilane | 95.4 g | ClC1=C(C=CC=C1)C#C[Si](C)(C)C | C11H13ClSi
